US04925865
A solution of 134 g (0.83 mol) of bromine in 130 ml of methylene chloride is added dropwise with stirring at 10° C. to a solution of 100 g (0.83 mol) of 5-chloropentan-2-one in 400 ml of methylene chloride. The reaction mixture is stirred for 1 hour at room temperature, then washed with water and dilute, aqueous sodium carbonate solution and dried over sodium sulphate. The mixture is concentrated by removing the solvent under reduced pressure, and the residue is taken up in 200 ml of methanol and 91.5 g (0.83 mol) of thiophenol are added at 5° C. with stirring. A mixture of 93 g of potassium hydroxide powder in 500 ml of methanol is then added dropwise. The reaction mixture is first stirred at room temperature for 2 hours and then at 40° C. for 4 hours. The mixture is subsequently concentrated by removing the solvent under reduced pressure and the residue which remains is taken up in methylene chloride. The organic solution is washed successively with water, dilute aqueous sodium carbonate solution and again with water, then concentrated under reduced pressure and then subjected to a vacuum distillation. In this manner, 76.8 g (48% of theory) of methyl 1-phenylmercaptocyclopropyl ketone of boiling point 155° C./20 mbar are obtained.

reactant | bromine | 0.83 mol, 134 g | BrBr | Br2
reactant | 5-chloropentan-2-one | 0.83 mol, 100 g | ClCCCC(C)=O | C5H9ClO
reactant | thiophenol | 0.83 mol, 91.5 g | C1(=CC=CC=C1)S | C6H6S
reactant | potassium hydroxide | 93 g | [OH-].[K+]
solvent | methylene chloride | 130 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 500 ml | CO | CH4O
product | methyl 1-phenylmercaptocyclopropyl ketone | 76.8 g, 48% | C1(=CC=CC=C1)SC1(CC1)C(=O)C | C11H12OS
